US04146631
Trifluoroacetic acid (0.8 ml) was added to dry 2,6-lutidine (10 ml) and the mixture was then treated with 3-cyano-5-methylsalicylic acid (0.885 g), sodium azide (0.65 g) and lithium chloride (20 mg), and heated at reflux for 20 hours. The mixture was then diluted with water (20 ml) and acidified by treatment with concentrated hydrochloric acid. The resulting precipitate was collected and recrystallized from a large amount of acetic acid to give 5-methyl-3-(tetrazol-5-yl)salicylic acid (0.65 g), m.p. 290°-292° C. (with decomposition).

reactant | Trifluoroacetic acid | 0.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2,6-lutidine | 10 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | 3-cyano-5-methylsalicylic acid | 0.885 g | C(#N)C1=C(C(C(=O)O)=CC(=C1)C)O | C9H7NO3
reactant | sodium azide | 0.65 g | [N-]=[N+]=[N-].[Na+]
reactant | lithium chloride | 20 mg | [Cl-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 5-methyl-3-(tetrazol-5-yl)salicylic acid | 0.65 g | CC1=CC(=C(C(C(=O)O)=C1)O)C1=NN=NN1 | C9H8N4O3
